US07560551B2
To a solution of 4-chloro-1-H-pyrrolo[2,3-b]pyridine (3.00 g, 19.7 mmol), N,N-dimethylpyridin-4-amine (1.20 g, 9.83 mmol), dichloromethane (67.8 mL) was added di-tert-butyl dicarbonate (4.72 g, 21.6 mmol). The resulting mixture was stirred at RT under nitrogen. After 18 h, LC-MS showed only product (m/z=527, [M+Na]+). The reaction mixture was diluted with CH2Cl2, washed with saturated sodium bicarbonate, and washed with brine. The organic phase was dried over magnesium sulfate, filtered, and concentrated. The crude was purified using an ISCO column chromatography on silica gel eluting with 90:10 Hex:EtOAc. The product fractions wre collected, concentrated and the oil was placed in the vacuum oven overnight to removed EtOAc. White solids, tert-butyl 4-chloro-1-H-pyrrolo[2,3-b]pyridine-1-carboxylate were formed slowly under vacuum. MS m/z=527 [Dimer+Na]+. Calcd for C12H13ClN2O2: 252.07.

reactant | 4-chloro-1-H-pyrrolo[2,3-b]pyridine | 19.7 mmol, 3.00 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | di-tert-butyl dicarbonate | 21.6 mmol, 4.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 9.83 mmol, 1.20 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 67.8 mL | ClCCl | CH2Cl2
product | tert-butyl 4-chloro-1-H-pyrrolo[2,3-b]pyridine-1-carboxylate | ClC1=C2C(=NC=C1)N(C=C2)C(=O)OC(C)(C)C | C12H13ClN2O2
